US05338740
G. 2-Butyl-5-chloro-1-{5-[2-(1H-tetrazol-5-yl)-phenyl]-indan-1-yl}-1H-imidazole-4-carboxylic acid
To a solution of 2-butyl-5-chloro-1-{5-[2-(1H-tetrazol-5-yl)-phenyl]-indan -1-yl}-1H-imidazole-4-carboxylic acid ethyl ester (50 mg, 0.1 mmol)in ethanol (2 mL) was added 2N sodium hydroxide (NaOH) (0.5 mL). The reaction mixture was stirred for 20 hours, and then concentrated in vacuo. The residue was diluted with saturated aqueous NaCl (10 mL) and neutralized with concentrated acetic acid (HOAc). The aqueous solution was extracted with chloroform (CHCl3) (3×10 mL). The combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was dissolved in EtOAc (0.5 mL) and hexanes were added to precipitate the product. The solid was filtered and dried in vacuo. 1H NMR (250 MHz, d6 -DMSO): d 7.62 (m, 5 H), 7.08 (s, t), 6.85 (m, 2 H), 6.15 (m, 1 H), 3.1-2.0 (m), 165 (m, 2 H), 140 (m, 2 H), 0.95 (t, 3 H).

reactant | 2-butyl-5-chloro-1-{5-[2-(1H-tetrazol-5-yl)-phenyl]-indan -1-yl}-1H-imidazole-4-carboxylic acid ethyl ester | 0.1 mmol, 50 mg | C(C)OC(=O)C=1N=C(N(C1Cl)C1CCC2=CC(=CC=C12)C1=C(C=CC=C1)C1=NN=NN1)CCCC | C26H27ClN6O2
reactant | sodium hydroxide | 2N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-Butyl-5-chloro-1-{5-[2-(1H-tetrazol-5-yl)-phenyl]-indan-1-yl}-1H-imidazole-4-carboxylic acid | C(CCC)C=1N(C(=C(N1)C(=O)O)Cl)C1CCC2=CC(=CC=C12)C1=C(C=CC=C1)C1=NN=NN1 | C24H23ClN6O2
